US06743879B1
The aliphatic prepolymer was reacted with 66-⅔% HEMA (or HPMA) to 33-⅓% of the prepolymer in the presence of a tin catalyst (UL22) and a stabilizer (MEHQ) for 4 hours at 150° F. to provide a aliphatic methyl methacrylate-urethane oligomer (HP 1516) with the following specifications:

reactant | HEMA | CC(=C)C(=O)OCCO | C6H10O3
reactant | HPMA | CC(COC(=O)C(=C)C)O | C7H12O3
catalyst | tin | [Sn] | Sn
product | MEHQ | COC1=CC=C(C=C1)O | C7H8O2
